US08022062B2
Under a nitrogen atmosphere, add 4-(2-methyl-butyl)-benzylamine (450 mg, 2.54 mmol), 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine (720 mg, 1.7 mmol), palladium(II) acetate (40 mg, 0.17 mmol), BINAP (222 mg, 0.34 mmol) and cesium carbonate (1.4 g, 4.3 mmol) to toluene (20 mL). Heat the mixture at 95° C. for 12 h. Cool the mixture to room temperature and apply the mixture to a silica gel column eluting with hexane/EtOAc (10:1) to provide 7-chloro-6-[4-(2-methyl-butyl)-benzylamino]-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (450 mg, 59%). MS (ES+) m/z: 453 (M+H)+.

reactant | 4-(2-methyl-butyl)-benzylamine | 2.54 mmol, 450 mg | CC(CC1=CC=C(CN)C=C1)CC | C12H19N
reactant | 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 1.7 mmol, 720 mg | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)OS(=O)(=O)C(F)(F)F | C13H10ClF6NO4S
reactant | BINAP | 0.34 mmol, 222 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | cesium carbonate | 4.3 mmol, 1.4 g | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | palladium(II) acetate | 0.17 mmol, 40 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 7-chloro-6-[4-(2-methyl-butyl)-benzylamino]-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 450 mg, 59% | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)NCC1=CC=C(C=C1)CC(CC)C | C24H28ClF3N2O
